US05418242
A solution of sodium 4-[(5-bromo-1H-indol-3-yl)thio]piperidine-1-carbodithioate (3 g, prepared in the previous Example) and methyl iodide (0.5 ml) in 95% ethanol (15 ml) is refluxed for one hour. The orange reaction mixture is concentrated, taken up with ether and washed with water. The organic phase is dried over sodium sulfate and concentrated. After chromatography on silica gel (eluent: cyclohexane/AcOEt 70/30), methyl 4-[(5-bromo-1H-indol-3-yl)thio]piperidine-1-carbodithioate (13 g) is obtained in the form of an oil, which is taken up with pentene to give a white solid.

reactant | sodium 4-[(5-bromo-1H-indol-3-yl)thio]piperidine-1-carbodithioate | BrC=1C=C2C(=CNC2=CC1)SC1CCN(CC1)C(=S)[S-].[Na+]
reactant | methyl iodide | 0.5 ml | CI | CH3I
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | methyl 4-[(5-bromo-1H-indol-3-yl)thio]piperidine-1-carbodithioate | 13 g | BrC=1C=C2C(=CNC2=CC1)SC1CCN(CC1)C(=S)SC | C15H17BrN2S3
